US04092311
A mixture of 7.5 g. of 6-(p-cyanophenyl)-3-chloropyridazine, 3.5 g. of methylhydrazine and 75 ml. of n-butanol is refluxed for 3 hours. The mixture is cooled and filtered to give the product. Recrystallization from dioxane gives 6-(p-cyanophenyl)-5-methyl-3-(1-methylhydrazino)pyridazine as tan crystals, m.p. 149°-152° C.

reactant | 6-(p-cyanophenyl)-3-chloropyridazine | C(#N)C1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C11H6ClN3
reactant | methylhydrazine | CNN | CH6N2
reactant | n-butanol | C(CCC)O | C4H10O
product | 6-(p-cyanophenyl)-5-methyl-3-(1-methylhydrazino)pyridazine | C(#N)C1=CC=C(C=C1)C1=C(C=C(N=N1)N(N)C)C | C13H13N5
